US05939451
0.314 g (0.001 mol) of 4-amino-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide and 6.6 ml (0.1 mol) of ethylamine were stirred in 15 ml of ethanol in an autoclave at 130° C. for 3 hours. The reaction mixture was freed from solvent, the residue was suspended in 8 ml of ethanol and treated in an ultra-sound bath for 15 minutes. The precipitate was filtered off, dissolved in 10 ml of 0.1N NaOH and filtered. The filtrate was adjusted to pH 6 with 0.1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.18 g (56%) of 4-amino-N-(6-ethylamino-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide as white crystals; m.p.: 252° C. (dec.).

reactant | 4-amino-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.001 mol, 0.314 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NC | C11H12ClN5O2S
reactant | ethylamine | 0.1 mol, 6.6 ml | C(C)N | C2H7N
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 4-amino-N-(6-ethylamino-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.18 g, 56% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCC)NC | C13H18N6O2S
